US07253180B2
For example, 9-benzhydryloxy-5-hydroxymethyl-7-(4-methoxy-benzyl)-6,7-dihydro-pyrrolo[3,4-g]quinolin-8-one A11.5 prepared by the method shown in Example 50, is reacted in dichloromethane with one molar equivalent of carbon tetrabromide and triphenylphosphine to produce 9-benzhydryloxy-5-bromomethyl-7-(4-methoxy-benzyl)-6,7-dihydro-pyrrolo[3,4-g]quinolin-8-one A11.6. The product is then heated at 120° C. with an excess of a trialkyl phosphite A11.3. The resulting phosphonate is then deprotected to afford the phenolic product A11.7.

reactant | 9-benzhydryloxy-5-hydroxymethyl-7-(4-methoxy-benzyl)-6,7-dihydro-pyrrolo[3,4-g]quinolin-8-one | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC=1C2=C(C(=C3C=CC=NC13)CO)CN(C2=O)CC2=CC=C(C=C2)OC | C33H28N2O4
reactant | carbon tetrabromide | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | ClCCl | CH2Cl2
product | 9-benzhydryloxy-5-bromomethyl-7-(4-methoxy-benzyl)-6,7-dihydro-pyrrolo[3,4-g]quinolin-8-one | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC=1C2=C(C(=C3C=CC=NC13)CBr)CN(C2=O)CC2=CC=C(C=C2)OC | C33H27BrN2O3
